US04710510
7,7-Dimethyl-2-(2-methoxy-4-methylsulphonylphenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
200 mg. (0.56 mmol) 7,7-dimethyl-2-(2-methoxy-4-methylthiophenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one were stirred for 48 hours at ambient temperature in 4 ml. glacial acetic acid and 0.4 ml. 30% hydrogen peroxide. 10 ml. water were added thereto and the solvent was removed in a vacuum. There were obtained 160 mg. (75% of theory) of the title compound which, after crystallization from ethanol, had a melting point of 235°-237° C.

reactant | 7,7-dimethyl-2-(2-methoxy-4-methylthiophenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | 0.56 mmol | CC1(C(NC2=CC3=C(N=C(N3)C3=C(C=C(C=C3)SC)OC)C=C21)=O)C | C19H19N3O2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | OO | H2O2
reactant | water | O | H2O
product | 7,7-Dimethyl-2-(2-methoxy-4-methylsulphonylphenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C3=C(C=C(C=C3)S(=O)(=O)C)OC)C=C21)=O)C | C19H19N3O4S
